US07276511B2
Synthesis of tert-butyl(1-(3,4-dichlorophenyl)-1-{[methyl-(3,3,3-trifluoro-propionyl)-amino]-methyl}-3-oxo-propyl)-methyl-carbamate
tert-Butyl(1-(3,4-dichlorophenyl)-3,4-dihydroxy-1-{[methyl-(3,3,3-trifluoro-propionyl)-amino]-methyl}-butyl)-methyl-carbamate (1.95 g) was dissolved in a mixture solvent of tetrahydrofuran (20 mL) and water (10 mL). Sodium periodate (1.61 g) was added thereto, and the mixture was stirred for 1 hours at room temperature. The reaction mixture was concentrated under reduced pressure, and water was added to the residue, followed by extraction with ethyl acetate. The organic layer was washed with saturated brine, dried over sodium sulfate anhydrate, and concentrated under reduced pressure, to thereby give the title compound (1.79 g, 98%). The compound was used in the next step without further purification.

reactant | tert-Butyl(1-(3,4-dichlorophenyl)-3,4-dihydroxy-1-{[methyl-(3,3,3-trifluoro-propionyl)-amino]-methyl}-butyl)-methyl-carbamate | 1.95 g | C(C)(C)(C)OC(N(C)C(CC(CO)O)(CN(C(CC(F)(F)F)=O)C)C1=CC(=C(C=C1)Cl)Cl)=O | C21H29Cl2F3N2O5
reactant | Sodium periodate | 1.61 g | I(=O)(=O)(=O)[O-].[Na+]
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | water | 10 mL | O | H2O
product | tert-butyl(1-(3,4-dichlorophenyl)-1-{[methyl-(3,3,3-trifluoro-propionyl)-amino]-methyl}-3-oxo-propyl)-methyl-carbamate | 1.79 g, 98% | C(C)(C)(C)OC(N(C)C(CC=O)(CN(C(CC(F)(F)F)=O)C)C1=CC(=C(C=C1)Cl)Cl)=O | C20H25Cl2F3N2O4
